US08293770B2
d) [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine
To a stirred solution of [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine (3.5 g, 0.010 mol) in MeOH (60 ml) was added 3-fluoro-4-trifluoromethyl-benzaldehyde (2.10 g, 0.0109 mol). Then a solution of NaBH3CN (0.79 g, 0.012 mol) in MeOH (15 ml) and AcOH (0.1 ml) were added. The reaction mixture was stirred overnight at RT, concentrated under vacuo, diluted with EtOAc, washed with H2O. The organic phases were dried over Na2SO4 and the product purified by flash chromatography (SiO2, EtOAc/Heptane 1:4) to afford 3.31 g (6 2%) of the title compound as a colorless oil.

reactant | [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-amine | 0.010 mol, 3.5 g | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)NC | C18H20Cl2N2
reactant | 3-fluoro-4-trifluoromethyl-benzaldehyde | 0.0109 mol, 2.10 g | FC=1C=C(C=O)C=CC1C(F)(F)F | C8H4F4O
reactant | NaBH3CN | 0.012 mol, 0.79 g | [BH3-]C#N.[Na+]
solvent | MeOH | 60 ml | CO | CH4O
solvent | MeOH | 15 ml | CO | CH4O
solvent | AcOH | 0.1 ml | CC(=O)O | C2H4O2
product | [(3RS,4SR)-1-Benzyl-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-(3-fluoro-4-trifluoromethyl-benzyl)-methyl-amine | C(C1=CC=CC=C1)N1CC(C(C1)C1=CC(=C(C=C1)Cl)Cl)N(C)CC1=CC(=C(C=C1)C(F)(F)F)F | C26H24Cl2F4N2
